data/rdb19/train.csv
rxn,smiles,ea
4554,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15]([H:16])=[N:17][C:18](=[O:19])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[H:25])([H:7])([H:8])[H:9],42.38680801104056
1536,[C:10]([C:11]([C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],27.815939299121965
309,[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([O:2])[H:3]>>[O:1][O:2][C:9]([C:6]([C:5]([C:4]([H:13])([H:14])[H:15])([H:16])[H:17])([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([O:10][H:3])[O:11][C:12]([H:24])([H:25])[H:26],13.984326030302327
1743,[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])[C:20]([H:32])([H:33])[H:34])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:19]([H:29])([H:30])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],55.20521241129609
2587,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([H:30])([H:31])[H:32].[H:16][C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34],83.05833339079982
3311,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],17.061301742156502
5169,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1([C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:28])[H:29])[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],25.642547038849443
4103,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([H:12])[H:13])([H:9])([H:10])[H:11].[C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35],59.32790685381042
658,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:19][H:20]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[O:19][H:20],54.92521097275312
40,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])[H:28])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:29])([H:6])([H:7])[H:8],29.83803063689265
